US04356177
(a) 4-methyl 2-(2-pyridyl) 2-pentene nitrile.
In a flask equipped with a water separator are placed 7 g of 2-pyridyl acetonitrile, 12.8 g of isobutyraldehyde, 0.9 ml of acetic acid, 0.18 ml of piperidine and 250 ml of dry benzene. The mixture is heated under reflux for 3 hours. After cooling, the reaction mixture is washed with water, the organic phase is dried over sodium sulfate then the solvent is evaporated to dryness.

reactant | water | O | H2O
reactant | 2-pyridyl acetonitrile | 7 g | N1=C(C=CC=C1)CC#N | C7H6N2
reactant | isobutyraldehyde | 12.8 g | C(C(C)C)=O | C4H8O
reactant | piperidine | 0.18 ml | N1CCCCC1 | C5H11N
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
solvent | acetic acid | 0.9 ml | C(C)(=O)O | C2H4O2
product | 4-methyl 2-(2-pyridyl) 2-pentene nitrile | CC(C=C(C#N)C1=NC=CC=C1)C | C11H12N2
